US04010217
A mixture of cyclooctene and ethylene was contacted with catalyst and adjuvant as in Examples IX and X at room temperature and 25 psi pressure to yield 13 weight percent 1,9-decadiene. This shows that ethylene and a cyclic olefin are converted to an acyclic polyene.

reactant | cyclooctene | C1=CCCCCCC1 | C8H14
reactant | ethylene | C=C | C2H4
product | 1,9-decadiene | C=CCCCCCCC=C | C10H18
